US04222935
2-Bromo-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino) azobenzene (479 parts), copper (I) iodide (19 parts), anhydrous sodium acetate (246 parts), formamide (180 parts), acetic anhydride (408 parts) and n-butyl acetate (2190 parts) are mixed together and heated, with stirring, to 110° C. during 15 minutes. The temperature is maintained at 110° for 30 to 50 minutes, when a solid is suddenly precipitated from the reaction mixture, indicating completion of the reaction. The mixture is allowed to cool to room temperature and the product is collected, washed with ethanol to remove residual n-butyl acetate and dried. 2-Cyano-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino)azobenzene is obtained in 88% yield and requires no purification.

reactant | 2-Bromo-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino) azobenzene | BrC1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])N=NC1=C(C=C(C=C1)N(CC)CC)NC(C)=O | C18H19BrN6O5
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | formamide | C(=O)N | CH3NO
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | copper (I) iodide | [Cu]I
solvent | n-butyl acetate | C(C)(=O)OCCCC | C6H12O2
product | 2-Cyano-4,6-dinitro-2'-acetylamino-4'-(N,N-diethylamino)azobenzene | 88% yield | C(#N)C1=C(C(=CC(=C1)[N+](=O)[O-])[N+](=O)[O-])N=NC1=C(C=C(C=C1)N(CC)CC)NC(C)=O | C19H19N7O5
